US07910740B2
[3-Methoxy-4-(4-methyl-imidazol-1-yl)-phenyl]-{4-[1-methyl-1-(3,4,5-trifluoro-phenyl)-ethyl]-thiazol-2-yl}-amine
A suspension of 78.7 mg (0.3 mmol) [3-methoxy-4-(4-methyl-imidazol-1-yl)-phenyl]-thiourea and of 90.2 mg (0.36 mmol) 1-chloro-3-methyl-3-(3,4,5-trifluoro-phenyl)-butan-2-one in ethanol (3 ml) was heated to reflux over night. The solvent was evaporated under reduced pressure and the residue was purified by column chromatography on silica gel using methylene chloride/methanol 19/1 to 9/1 as eluent to yield 95 mg (69%) of the title compound as a light yellow solid. MS ISP (m/e): 459.1 (100) [(M+H)+]. 1H NMR (DMSO-D6, 300 MHz): δ (ppm)=10.38 (s, 1H), 7.83 (s, 1H), 7.63 (s, 1H), 7.23-7.18 (m, 3H), 7.01 (s, 1H), 6.88 (d, 1H), 6.69 (s, 1H), 3.68 (s, 3H), 2.13 (s, 3H), 1.65 (s, 6H).

reactant | [3-methoxy-4-(4-methyl-imidazol-1-yl)-phenyl]-thiourea | 0.3 mmol, 78.7 mg | COC=1C=C(C=CC1N1C=NC(=C1)C)NC(=S)N | C12H14N4OS
reactant | 1-chloro-3-methyl-3-(3,4,5-trifluoro-phenyl)-butan-2-one | 0.36 mmol, 90.2 mg | ClCC(C(C)(C1=CC(=C(C(=C1)F)F)F)C)=O | C11H10ClF3O
solvent | ethanol | 3 ml | C(C)O | C2H6O
product | [3-Methoxy-4-(4-methyl-imidazol-1-yl)-phenyl]-{4-[1-methyl-1-(3,4,5-trifluoro-phenyl)-ethyl]-thiazol-2-yl}-amine | 95 mg, 69% | COC=1C=C(C=CC1N1C=NC(=C1)C)NC=1SC=C(N1)C(C)(C1=CC(=C(C(=C1)F)F)F)C | C23H21F3N4OS
